US06713499B2
To a stirred solution of 2.00 g (1.02 mmol) 4-methoxy-benzothiazole-2,7-diamine in 30 ml DMF at room temperature was added 4.25 g (3.07 mmol) potassium carbonate and the mixture heated to 50° C. A solution of 0.64 ml (1.02 mmol) iodomethane in 10 ml DMF was then added dropwise over 3 h and stirring continued for a further 1 h at 50° C. The mixture was then filtered and the filtrate concentrated in vacuo. Flash chromatography (20/1 dichloromethane/methanol) afforded 600 mg (26%) 4-methoxy-N7,N7-dimethyl-benzothiazole-2,7-diamine as a yellow solid, ES-MS m/e (%): 224 (M+H+, 100); 540 mg (25%) 4-methoxy-N7-methyl-benzothiazole-2,7-diamine as a yellow solid, ES-MS m/e (%): 210 (M+H+, 100) and 340 mg (17%) recovered starting material.

reactant | 4-methoxy-benzothiazole-2,7-diamine | 1.02 mmol, 2.00 g | COC1=CC=C(C2=C1N=C(S2)N)N | C8H9N3OS
reactant | potassium carbonate | 3.07 mmol, 4.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 1.02 mmol, 0.64 ml | IC | CH3I
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-methoxy-N7,N7-dimethyl-benzothiazole-2,7-diamine | 600 mg, 26% | COC1=CC=C(C2=C1N=C(S2)N)N(C)C | C10H13N3OS
